US06462092B1
The 3[(3-bromophenyl)[[3-(trifluoromethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol (500 mg, 1.1 mmol) product from EX-633B and 5-hydroxy-2-methylpyridine (262 mg, 2.4 mmol) were dissolved in dimethylacetamide (6 mL). Cs2CO3 (1.0 g, 3.1 mmol) and (CuCF3SO3)2C6H6 (150 mg) were added, and the mixture was heated to 105° C. for 96 h under an atmosphere of nitrogen, at which time HPLC analysis indicated that most of the starting materials had been consumed. After adding water, the reaction mixture was extracted with ether, and the ether extracts were washed with brine and dried over anhydrous MgSO4. The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate:hexane (1:12) to give 326 mg (61%) of the desired 3-[[3-(2-methyl-5-pyridyloxy)phenyl][[3-(trifluoro-methoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol product as a light amber oil, 99% pure by HPLC analysis. 1H NMR (CDCl3) δ 8.00 (s, 1H), 7.29 (t 1H), 6.99 (s, 1H), 7.02-7.15 (m, 5H), 6.46 (dd, 1H), 6.29 (t, 1H), 6.25 (dd, 1H), 4.88 (br s, 1H), 4.67 (ABq, 2H), 4.36 (m, 1H), 3.88 (dd, 1H), 3.56(dd, 1H), 2.49 (s, 3H). 19F NMR (CDCl3) δ −58.2, (s, 3F), −79.1 (d, 3F). HRMS calcd. for C23H20N2O3F6: 487.1456 [M+H]+, found: 487.1425.

reactant | 3[(3-bromophenyl)[[3-(trifluoromethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 1.1 mmol, 500 mg | BrC=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(F)(F)F | C17H14BrF6NO2
reactant | 5-hydroxy-2-methylpyridine | 2.4 mmol, 262 mg | OC=1C=CC(=NC1)C | C6H7NO
reactant | Cs2CO3 | 3.1 mmol, 1.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylacetamide | 6 mL | CC(=O)N(C)C | C4H9NO
product | 3-[[3-(2-methyl-5-pyridyloxy)phenyl][[3-(trifluoro-methoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 326 mg, 61% | CC1=NC=C(C=C1)OC=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(F)(F)F | C23H20F6N2O3
